US04219660
Preparation of 4-Nitro-3-methyl-2-butenoic acid
A stirred solution of 0.1 Mol of 4-Nitro-3-methyl-2-butenol in acetone at 10°-15° was titrated with approximately 0.26 Mol of Jones reagent until the reaction mixture stayed dark orange colored. After 2 hours stirring at 10°-15° C. the mixture was decanted from the green chromium salts and the acetone removed. The residue was dissolved in ether and washed several times with saturated NaCl solution. After evaporation, the residue was crystallized from hot benzene and off-white crystals, mp 85°, were obtained. Two more recrystallizations from benzene yielded the pure nitroacid, mp 100°-102°.

reactant | 4-Nitro-3-methyl-2-butenol | 0.1 Mol | [N+](=O)([O-])CC(=CCO)C | C5H9NO3
reactant | Jones reagent | approximately 0.26 Mol | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | CC(=O)C | C3H6O
product | 4-Nitro-3-methyl-2-butenoic acid | [N+](=O)([O-])CC(=CC(=O)O)C | C5H7NO4
